* C:\Users\mbes1\OneDrive\Desktop\custom_tank_drive\hardware\electrical\simulations\ltspice\H-Bridge.asc
XM1 N009 N020 0 irlz44n
XM2 N011 N018 0 irlz44n
XM3 Vin N004 N009 irlz44n
Q1 N001 N002 N005 0 BC547C
Q2 N009 N002 N005 0 BC557C
R2 N004 N005 10
R3 N001 N002 2k
C1 N001 N009 100n
D1 12V N001 MBR20100CT
Q3 N002 N010 N013 0 BC547C
R1 N013 0 100
R§10 N010 Vb_L 1k
Q4 12V N019 N020 0 BC547C
Q5 0 N019 N020 0 BC557C
R5 N019 Vf 1k
XM5 Vin N008 N011 irlz44n
Q6 N003 N006 N007 0 BC547C
Q7 N011 N006 N007 0 BC557C
R6 N008 N007 10
R7 N003 N006 2k
C3 N003 N011 100n
D2 12V N003 MBR20100CT
Q8 N006 N014 N015 0 BC547C
R8 N015 0 100
R9 N014 Vf_L 2k
Q9 12V N016 N017 0 BC547C
Q10 0 N016 N017 0 BC557C
R10 N016 Vb 1k
V1 Vin 0 24
V2 12V 0 12V
V3 Vb 0 PULSE(0 12 {Vb_delay} 0.001u 0.001u {Vb_Ton} {Vperiod})
V4 Vf 0 PULSE(0 12 {Vf_delay} 0.001u 0.001u {Vf_Ton} {Vperiod})
R12 N018 N017 10
R11 N012 N011 1.14
V5 Vf_L 0 PULSE(12 0 0 0.001u 0.001u {Vf_Ton_L} {Vperiod})
V6 Vb_L 0 PULSE(12 0 0 0.001u 0.001u {Vb_Ton_L} {Vperiod})
L1 N012 N009 200µ
.model D D
.lib C:\Users\mbes1\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\mbes1\AppData\Local\LTspice\lib\cmp\standard.bjt
.include ./models/IRLZ44N.spi
.tran 5m
* High Side Driver
* High Side Driver
* PWM input
* PWM input
* PWM input
* PWM input
* Low Side Driver
* Low Side Driver
* Motor
.param Vf=0
.param Vb=1
* set Vf to 1 to move the motor "forwards"\nset Vb to 1 to move the motor "backwards"
.param Vperiod=25u
.param Vdutycycle=90
.param Ton={Vperiod*Vdutycycle/100}
.param Vf_Ton={Vf*Vperiod + (1-Vf)*(Vperiod-Ton)}
.param Vf_Ton_L={Vf*Ton}
.param Vb_Ton={Vb*Vperiod + (1-Vb)*(Vperiod-Ton)}
.param Vb_Ton_L={Vb*Ton}
.param Vf_delay={Vf*(0)+(1-Vf)*Ton}
.param Vb_delay={Vb*(0)+(1-Vb)*Ton}
.backanno
.end
